US03985750
8-(n-Butyl)-10-[4-(3-octanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin
In accordance with the general procedure described in the foregoing Examples, 4.1 grams of 8-(n-butyl)-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin was reacted with 3.2 grams of caprylyl chloride (octanoyl chloride) in a mixture of 18 milliliters of benzene and 7 milliliters of chloroform. A solution of 2.3 grams of maleic acid in 25 milliliters of acetone was then added to the mixture and the resulting 8-(n-butyl)-10-[4-(3-oxtanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin di(hydrogen maleate) which had a melting point of 113°-115°C, after recrystallization from acetone, was recovered. Its elemental analysis corresponded to the empirical formula C41H56N2O10S. The free base was obtained in the form of a colorless very viscous oil which was very soluble in vegetable oils by dissolving the salt in a dilute aqueous ammonium hydroxide solution and extracting the solution with benzene.

reactant | 8-(n-butyl)-10-[4-(3-hydroxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | 4.1 grams | C(CCC)C=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCO)C1 | C25H34N2OS
reactant | caprylyl chloride | 3.2 grams | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | maleic acid | 2.3 grams | C(\C=C/C(=O)O)(=O)O | C4H4O4
solvent | benzene | 18 milliliters | C1=CC=CC=C1 | C6H6
solvent | chloroform | 7 milliliters | C(Cl)(Cl)Cl | CHCl3
solvent | acetone | 25 milliliters | CC(=O)C | C3H6O
solvent | ammonium hydroxide | [OH-].[NH4+]
product | 8-(n-Butyl)-10-[4-(3-octanoyloxypropyl)piperazino]-10,11-dihydrodibenzo[b,f]thiepin | C(CCC)C=1C=CC2=C(C(CC3=C(S2)C=CC=C3)N3CCN(CC3)CCCOC(CCCCCCC)=O)C1 | C33H48N2O2S
